US05650422
A mixture of 2-benzyl-6-hydroxysaccharin (0.86 g), 2-bromoethyl 2-methoxyethyl ether (d=1.347, 0.45 mL), potassium carbonate (1.24 g), methyl ethyl ketone (50 mL) and dimethylformamide (2 mL) was heated under reflux for five hours, then poured into ice-water (500 mL). The resulting solid was collected, washed with water and dried affording 2-benzyl-6-[2-(2-methoxyethoxy)ethoxy]saccharin (0.92 g, 78% yield, mp 86°-88° C.).

reactant | 2-benzyl-6-hydroxysaccharin | 0.86 g | C(C1=CC=CC=C1)N1S(=O)(=O)C2=CC(=CC=C2C1=O)O | C14H11NO4S
reactant | 2-bromoethyl 2-methoxyethyl ether | 0.45 mL | COCCOCCBr | C5H11BrO2
reactant | potassium carbonate | 1.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 50 mL | C(C)C(=O)C | C4H8O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-benzyl-6-[2-(2-methoxyethoxy)ethoxy]saccharin | 0.92 g, 78% yield | C(C1=CC=CC=C1)N1S(=O)(=O)C2=CC(=CC=C2C1=O)OCCOCCOC | C19H21NO6S
